Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
unresponsive
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo man with a PMH of depression, past 
suicide attempts, HTN, EtOh abuse with DT's (las drink 1 month 
ago), and recent acceleration of his ativan use who was 
transferred from ___ to ___ MICU after he 
was found down by his parents with empty coumadin and lamictal 
bottles near him. Per records, the patient was found the morning 
of ___  
after his parents heard a "thud" and found him lying next to the 
bottles not responding. He was brought to OSH and was found to 
be minimally responsive. He was intubated and a central line was 
placed in the ED. Head CT there showed small fluid collection 
abutting the right front lobe not causing mass effect, density 
suggests subacute subdural hematoma. Head CT there showed small 
fluid collection abutting the right front lobe not causing mass 
effect, density suggests subacute subdural hematoma. CT C-spine 
showed postop changes C5-7 otherwise no fractures. INR was 1.8, 
PTT 38. Tox screen was negative for acetaminophen, salicylates 
or alcohol. He was given 10 units IV Vitamin K for the concern 
for coumadin O/D & transferred to ___ for further 
management/neurosurgery evaluation.  

 
Past Medical History:
Depression, prior SA  
Bilateral DVT's on coumadin  
HTN  
Subdural hygroma  
s/p C5-7 fusion  

 
Social History:
___
Family History:
non-contributary
 
Physical Exam:
GEN:Intubated and sedated  
SKIN:Erythema over left forearm, soft  
HEENT:Pupils equal and reactive, ET tube in place, NG Tube in 
place  
CHEST:Lungs are clear without wheeze, rales, or rhonchi.  
CARDIAC: Regular rhythm; no murmurs, rubs, or gallops.  
ABDOMEN: No apparent scars. Non-distended, and soft without 
tenderness  
EXTREMITIES:Swelling/ecchymosis over right foot  
NEUROLOGIC: Sedated  
Exam off sedation: Pt responds to commands, opens eyes, squeezes 
hands, and has jerky motion of both lower extremities but 
responding throughout this jerking motion 

 
Pertinent Results:
Admission labs:

___ 06:02PM   TYPE-ART RATES-/14 PEEP-5 PO2-324* PCO2-44 
PH-7.40 TOTAL CO2-28 BASE XS-2 INTUBATED-INTUBATED 
VENT-CONTROLLED
___ 06:02PM   GLUCOSE-138* LACTATE-2.4* NA+-140 K+-3.5 
CL--101 TCO2-28
___ 06:02PM   freeCa-1.20
___ 06:00PM   GLUCOSE-136* UREA N-10 CREAT-0.8 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-103
___ 06:00PM   ALT(SGPT)-255* AST(SGOT)-119* CK(CPK)-168 ALK 
PHOS-135* TOT BILI-0.8
___ 06:00PM   LIPASE-25

Head CT: 
IMPRESSIONS: 
1. 8-mm subacute right frontal subdural collection, without 
evidence of acute 
bleeding. No area of acute intracranial hemorrhage. 
2. Mild atrophy of left temporal lobe. 
3. Paranasal sinus disease with fluid in the sphenoid sinuses 
likely related 
to intubation.  

Chest CT ___:
IMPRESSIONS: 
1. Left lower lobe consolidation may represent atelectasis, 
infection, or 
aspiration. Small right lower lobe ill-defined nodules also 
suggest 
aspiration. 
2. No traumatic injuries within the torso. No fractures. 
3. Diverticulosis without diverticulitis. 

CT Spine IMPRESSIONS ___: 
1. No fracture or malalignment of the cervical spine. 
2. Status post C5 through C7 fixation and laminectomies without 
evidence of hardware complication. 

Head MRI ___:
IMPRESSION: 
No acute infarct seen. Unchanged right frontal subdural. Soft 
tissue changes 
in the left frontal sinus and sphenoid sinus. 

MRI spine ___:
IMPRESSION: 
New enhancement and increased signal in the posterior soft 
tissues with a 1.5- cm fluid collection near the tip of the 
spinous process of T1 could be due to trauma or due to new 
inflammatory changes. Infection should be excluded by clinical 
correlation. Findings were discussed with Dr. ___ at the 
time of interpretation of the study on ___. No epidural 
abscess or cord compression seen. 

Foot AP/Lat: THREE VIEWS OF THE RIGHT FOOT: There is no fracture 
or dislocation. No focal lytic or sclerotic osseous abnormality 
is visualized. No radiopaque foreign bodies are present. There 
are no soft tissue calcifications. No focal lytic or sclerotic 
osseous abnormalities are present. Joint spaces are relatively 
preserved. 
IMPRESSION: No fracture or dislocation. 
  

Chest X ray ___:
FINDINGS: AP single view of the chest has been obtained with 
patient in 
sitting semi-upright position. Comparison is made with the next 
previous 
similar study obtained 14 hours earlier during the same date. 
Position of NG tube and left-sided subclavian central venous 
line unchanged as described earlier. Inspiration status markedly 
improved. The left-sided retrocardiac diffuse density seen on 
the previous study has now cleared up. One can identify a plate 
atelectasis, but as the left-sided diaphragm is well described, 
significant pleural effusion and parenchymal infiltrate in this 
area is most unlikely. No pneumothorax has developed. Pulmonary 
vasculature is not congested. 
IMPRESSION: Improvement of previously identified left lower lobe 
atelectasis in patient with suspected overdose and previous 
respiratory failure. 

EMG ___:
IMPRESSION: 
Complex, abnormal study. The electrophysiologic findings can be 
explained most parsimoniously by a severe, subacute (between 3 
weeks to 3 months) C7-T1 polyradiculopathy on the right. The 
findings cannot be explained by a 
posterior interosseous neuropathy in isolation. The preservation 
of the medial antebrachial cutaneous response on the right makes 
a brachial plexopathy effecting the lower trunk unlikely. There 
is also evidence for an underlying, mild, chronic C5-7 
radiculopathy on the right. Of note, axonal continuity is 
maintained to all muscles tested. If clinically indicated, 
repeat testing in three months may be warranted. 

 
Brief Hospital Course:
___ yo M found down at home, intubated in ED for unresponsiveness 
after coumadin and lamictal overdose
.  
# Unresponsiveness /Fall: In the ED, vital signs were initially 
were 99 146/89 HR 86 RR 16 100% The patient was intubated. He 
had CT Head which showed right frontal lobe area concerning for 
a subdural hematoma. Neurosurgery felt that the CT head changes 
were related to post surgical status, and no acute intervention 
was needed. CT Torso showed LLL infiltrate concerning for 
aspiratin pneumonia; thus pt given Vanc/zosyn. Xray of right 
foot done for swelling noted on exam which was negative for 
fracture. Labs remarkable for ABG 7.40/44/324, INR 1.7, lactate 
2.4, WBC 12.4, trop <0.01, creatinine 0.8. EKG with TWI and ST 
depression v4-v6 that resolved on repeat.  The patient was 
admitted to the MICU where the intitial differential also 
included lamictal and coumadin overdose, seizure vs ETOH 
Withdrawal vs arrhythmia (given the EKG changes noted in ED that 
later resolved) vs PE (the patient was subtherapeutic on 
coumadin on arrival) vs Wernickes encephalopathy. 

On arrival to the MICU he was responding to commands with 
lightened sedation but with clonus and hyperreflexia (not 
thought to be new but possibly be more pronounced than 
previously described on OMR notes).  While he was being examined 
by the MICU team off propofol, he started having rhythmic jerky 
movements in all limbs, and neuro was called for concerns of 
seizures. They noted that the patient was able to stop the 
movement for few secs if instructed and was able to follow 
commands during these movements. It was thought that the patient 
was exhibiting clonus due to toxic metabolic encephalopathy due 
to multi medication overdose (lamictal and coumadin) or 
withdrawal (alcohol vs benzodiazepines).  
.  
When the patient was awake to be able to give a history it was 
determined that the patient has a history of alcohol abuse with 
DTs in the past. However, he stated he has not had alcohol in 
over a month. The patien's sister corroborated this story 
telling the neurology team that the patient was in a supervised 
setting post op in his father's home with sister's assistance 
and no alcohol available. She did, however, think that he used 
his anti-anxiety and narcotics Rx at an "accelerated rate" and 
overdosed in part due to despondence over pain/restrictive 
environment. He is normally prescribed 1.5 mg ativan a day.  In 
light of this information, it was thought that the patient might 
be exhibiting withdrawal not from alcohol but from 
benzodiazepines so he was started on a CIWA scale with valium. 
His mental status improved considerably with this regimen.  
  
The patient was also evaluated by psychiatry who did not elicit 
suicidal ideation. The patient told the team that he took ___ 
pills of Warfarin w/Lamotrigine because he "wanted to go to 
sleep." However, in talking with the patient's father, he stated 
that he feels that his son is not safe to go home and may 
actually be a danger to himself. Therefore, psych determined 
that the patient should be ___ with a 1:1 sitter.  

The pateint was deemed stable for the medicine floor and was 
transferred.  There he continued to improve, with no 
disorientation.  He was alert with good concentration.  He was 
maintained on CIWA scale but only required 2 doses of diazepam 
for anxiety.  He did not score above 10 on the CIWA scale.  He 
was maintained on telemetry and had a few episodes of 
tachycardia to the 150s which was thought to be normal sinus 
rhythm.  Because this only happened when he was getting up from 
bed and walking it was thought that he was orthostatic and 
deconditioned from lying in bed for so long.  He was hydrated 
with IV fluids and orthostatics were checked and were negative.  
He was encouraged to walk around 3 times a day each day.

# Suicide attempt:  As stated above the patient denied suicide 
attempt with the overdose, but rather states he was just trying 
to make himself go to sleep by taking all of the medications.  
He was evaluated by psych who also talked to the patient's 
father who thought  the patient would be a danger to himself at 
home.  For this reason and the fact that the patient has prior 
suicide attempts he was made ___ and kept a 1:1 sitter.  
His fluoxetine was restarted at 60 mg a day on ___ but no 
other psychiatric medications were restarted.  TSH was checked 
and was normal at 3.1.  The patient was discharged to an 
___ facility.  
.  
# Subderual hematoma/hygroma: The patient has a chronic right 
frontal hygroma and was evaluated by neurosurgery who felt that 
this was resolving and no intervention was needed.  They also 
felt that there was no contraindication to coumadin. Per 
neurosurgery, the patient will need a follow-up head CT as an 
outpatient in 4 weeks (end of ___.  He should call  
___ to book this appointment.  He 
should follow up with neurosurgery after he gets this CT.  He 
can call the following number to schedule this appointment: 
___.
.  
# Pulmonary infiltrate: CT chest showed evidence of aspiration 
PNA. The patient was afebrile but initially had a mild 
leukocytosis so he was given vanc/Zosyn for 3 days.  Antibiotics 
were stopped because the patient was not exhibiting symptoms and 
was afebrile.  He continued to not have any symptoms of 
pneumonia including shortness of breath, cough, chest pain, or 
fever.
.  
# DVT's: The patient had bilateral lower extremity DVTs 
diagnosed at a recent admission, for which he was discharged on 
coumdain.  After his overdose on coumadin he was given 10 mg IV 
vitamin K at the OSH.  During this hospitalization his initial 
INR was 1.7 so his coumadin was held.  His INR trended down to 
1.0.  Neurosurgery felt that it was ok to restart his coumadin 
so the patient was bridged with lovenox BID.   His INR remained 
at 1.0 for several days so his coumadin dose was increased to 10 
mg for two days before titrating back to 4 mg a day.  The day of 
discharge his INR was 1.4. The patient should continue to get 4 
mg (his home dose) coumadin and have his INR checked every day 
until he is theraputic (INR ___.  At that time he can 
discontinue the lovenox injections.
.
# right hand palsy:  The patient was noted to have a right hand 
palsy where he was unable to extend his right fingers.  It was 
recommenced by Dr. ___ neurosurgeon, that he get an EMG 
study.  The findings of this study were: "Complex, abnormal 
study. The electrophysiologic findings can be explained most 
parsimoniously by a severe, subacute (between 3 weeks to 3 
months) C7-T1 
polyradiculopathy on the right. The findings cannot be explained 
by a 
posterior interosseous neuropathy in isolation."  Neurology 
recommended that the patient follow up with Dr. ___ 
___. and have a repeat EMG in three months.  The patient can call 
___ to schedule the follow up appointment and ___ to schedule the EMG study.  The patient was evaluated 
by Occupational Therapy who priovided a daytime and a nighttime 
splint which he should continue to wear.  The patient noted 
subjective improvement of his wrist extension, but no 
improvement of his finger extension the day of discharge.

 
Medications on Admission:
MEDICATIONS AT HOME: (per OMR d/c summary/OSH notes)  
Senna 8.6 mg prn  
Docusate 100mg prn  
Lamotrigine 75 mg  
Famotidine 20 mg Q12H  
Thiamine 100 mg  
Multivitamin  
Folic Acid 1 mg  
Fluoxetine 60 mg  
Dulcolax 10 mg Suppository prn  
Acetaminophen 650 mg prn  
Warfarin 4 mg qd  
Oxycodone 5mg q6 prn  

 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for constipation.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
3. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
4. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Dulcolax 10 mg Suppository Sig: One (1)  Rectal once a day.  
8. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q4H (every 4 
hours) as needed for arm pain.  
9. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours).  
10. Fluoxetine 20 mg Capsule Sig: Three (3) Capsule PO DAILY 
(Daily).  
11. Warfarin 2 mg Tablet Sig: Two (2) Tablet PO Once Daily at 4 
___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Lamictal overdose
Coumadin overdose

Secondary diagnosis:
Subdural hematoma
Depression
bilateral DVTs

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You came to the hospital after you were found down on the 
ground.  You told us that you overdosed on Lamictal and 
Coumadin.  You were intubated and monitored in the intensive 
care unit.  We gave you medicines to treat you for 
benzodiazepine withdrawal and supportive measures until the 
medications you overdosed on cleared from your system.  You were 
evaluated by the neurosurgeons who thought that your head did 
not have evidence of bleeding.  They would like you to follow up 
with a repeat head CT in 4 weeks and see them in outpatient 
clinic.  You can call to schedule these appointments (see 
below).

You were also evaluated by the psychiatrists who thought that 
you might be in danger of hurting yourself.  They think you 
would benefit from inpatient psychiatric treatment.  Please 
follow their recommendations regarding restarting your 
medications for depression, some of which we have held during 
this hospitalization.

You were also noted to have a right hand paralysis that you 
first noticed after your initial fall back in ___.  You had 
an EMG study performed which showed some abnormailities in the 
nerves in your arm.  The neurologists would like you to follow 
up with them and have a repeat EMG in 3 months.  Please see 
below for the numbers to call to schedule these appointments.  
You were also seen by occupational therapy who stated you should 
wear a resting splint when you sleep as well as a dyamic brace 
during the day when you are doing activities.  

We restarted you back on your blood thinners for your blood clot 
in your legs.  You should continue to take both the lovenox 
shots twice a day as well as the coumadin once a day and have 
your blood drawn every day until your INR level is theraputic 
(between 2 and 3).  At that time you can stop the lovenox shots 
and just continue with the coumadin.

Pleas note the following changes to your medications:
Please Stop Lamictal
Please Stop Fluoxetine
Please change your oxycodone to 10 mg every 4 hours as needed 
for arm, neck, shoulder pain
Please continue lovenox 60 mg twice a day until your INR is 
between 2 and 3.

Please continue to take the rest of your medications as 
prescribed.

It was a pleasure taking part in your care.
 
Followup Instructions:
___